US07169761B2
A 1.6 M hexane solution of n-butyl lithium (11 ml) was added dropwise to a solution of 3-bromo-4-ethoxytoluene (3.6 g) in THF (50 ml) at −78° C. and the mixture was stirred for 15 minutes. Then, a solution of 2,3,4,6-tetra-O-benzyl-D-(+)-glucono-1,5-lactone (7.6 g) in THF (10 ml) was added dropwise to the reaction mixture and the mixture was stirred for 2.5 hours. Saturated aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The resulting precipitates were collected by filtration to obtain 2,3,4,6-tetra-O-benzyl-1-C-(2-ethoxy-5-methylphenyl)-D-glucopyranose (3.53 g).

reactant | n-butyl lithium | 11 ml | C(CCC)[Li]
reactant | 3-bromo-4-ethoxytoluene | 3.6 g | BrC=1C=C(C=CC1OCC)C | C9H11BrO
reactant | 2,3,4,6-tetra-O-benzyl-D-(+)-glucono-1,5-lactone | 7.6 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | 2,3,4,6-tetra-O-benzyl-1-C-(2-ethoxy-5-methylphenyl)-D-glucopyranose | 3.53 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)C)OCC | C43H46O7
